US06486153B1
(c) 2-[3,5-Bis(trifluoromethyl)phenyl]-3-[2-(N-methyl-N-isopropylamino)ethyl]-1H-indole
Trifluoromethanesulphonic anhydride (10 ml) was added to a cooled (−78° C.) solution of 1-tert-butoxycarbonyl-2-[3,5-bis(trifluoromethyl)-phenyl]-3-(2-hydroxyethyl)-1H-indole (20 mg) in dry dichloromethane (1.0 ml). After 30 min N-methylisopropylamine (100 ml of a 1.0 mmol solution in dichloromethane) was added. The reaction was allowed to warm to room temperature overnight and was then treated with methylisocyanate polystyrene resin (100 mg @ 1.0 mmol/g). The reaction solution was filtered and the solvent removed under reduced pressure. The residue was taken up in 0.2N NaO Me/methanol (1.0 ml) and warmed to 45° C. for two hours. The solvent was removed under reduced pressure and the title compound recovered by ion exchange chromatography (SCX, 2N NH3/MeOH), m/z (m+H)+429.

reactant | Trifluoromethanesulphonic anhydride | 10 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 1-tert-butoxycarbonyl-2-[3,5-bis(trifluoromethyl)-phenyl]-3-(2-hydroxyethyl)-1H-indole | 20 mg | C(C)(C)(C)OC(=O)N1C(=C(C2=CC=CC=C12)CCO)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C23H21F6NO3
reactant | N-methylisopropylamine | CNC(C)C | C4H11N
solvent | dichloromethane | 1.0 ml | ClCCl | CH2Cl2
product | 2-[3,5-Bis(trifluoromethyl)phenyl]-3-[2-(N-methyl-N-isopropylamino)ethyl]-1H-indole | FC(C=1C=C(C=C(C1)C(F)(F)F)C=1NC2=CC=CC=C2C1CCN(C(C)C)C)(F)F | C22H22F6N2
